US08912173B2
1.316 g N-methylacetamide was dissolved in 60 mL THF. 2.02 g Potassium tert-butoxide was added and the mixture stirred for 20 min at 50° C. Then 3 g of 4-bromobenzylbromide dissolved in 10 mL THF was added and the mixture stirred for 2 h at 50° C. After cooling ethylacetate and water were added and the organic phase extracted with water (1×), dried and the solvent distilled off to yield 2.8 g N-(4-bromobenzyl)-N-methylacetamide as an oil.

reactant | N-methylacetamide | 1.316 g | CNC(C)=O | C3H7NO
reactant | Potassium tert-butoxide | 2.02 g | CC(C)([O-])C.[K+]
reactant | 4-bromobenzylbromide | 3 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(4-bromobenzyl)-N-methylacetamide | 2.8 g | BrC1=CC=C(CN(C(C)=O)C)C=C1 | C10H12BrNO
